US06207686B1
To a solution of Nα-[(2RS,3RS)-2-(3,4-methylenedioxyphenyl)-3-hydroxyheptanoyl]-L-tryptophan benzyl ester (255 mg) in dichloromethane (5 ml) were added pyridine (74 mg), acetic anhydride (72 mg) and 4-(dimethylamino)pyridine (11 mg) at 5° C. and the mixture was stirred at ambient temperature for 18 hours. The mixture was diluted with ethyl acetate (20 ml) and the solution was washed with 0.5N hydrochloric acid (20 ml×2), saturated sodium bicarbonate aqueous solution (20 ml×2) and brine (20 ml) successively and the organic layer was dried over magnesium sulfate. The solution was filtered and concentrated in vacuo to give Nα-[(2RS,3RS)-2-(3,4-methylenedioxyphenyl)-3-acetoxyheptanoyl]-L-tryptophan benzyl ester as an oil.

reactant | Nα-[(2RS,3RS)-2-(3,4-methylenedioxyphenyl)-3-hydroxyheptanoyl]-L-tryptophan benzyl ester | 255 mg | C(C1=CC=CC=C1)OC([C@@H](NC(C(C(CCCC)O)C1=CC2=C(C=C1)OCO2)=O)CC2=CNC1=CC=CC=C21)=O | C32H34N2O6
reactant | pyridine | 74 mg | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 72 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 11 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | Nα-[(2RS,3RS)-2-(3,4-methylenedioxyphenyl)-3-acetoxyheptanoyl]-L-tryptophan benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC(C(C(CCCC)OC(C)=O)C1=CC2=C(C=C1)OCO2)=O)CC2=CNC1=CC=CC=C21)=O | C34H36N2O7
